US09351965B2
To a solution of nitrosonium tetrafluoroborate (1.1 mmol, 128.5 mg) and hydrogen fluoride pyridine (0.5 mL) in DCM (2 mL) at 0° C. under argon was added a solution of 3-(tert-butoxycarbonylamino)-1-(2-phenyl-1,3-dithiaN-2-yl)cyclohexyl acetate (0.5 mmol, 226 mg) in DCM dropwise. The reaction mixture was stirred at 0° C. for 1 hour. Sodium carbonate (solid) was added until no further gas bubbling. The mixture and the methanol washings were filtered. The filtrate was concentrated. 3-Amino-1-(difluoro(phenyl)methyl)cyclohexanol was obtained after purification by reverse phase HPLC.

reactant | nitrosonium tetrafluoroborate | 1.1 mmol, 128.5 mg | F[B-](F)(F)F.N#[O+]
reactant | hydrogen fluoride pyridine | 0.5 mL | N1=CC=CC=C1.F
reactant | 3-(tert-butoxycarbonylamino)-1-(2-phenyl-1,3-dithiaN-2-yl)cyclohexyl acetate | 0.5 mmol, 226 mg | C(C)(=O)OC1(CC(CCC1)NC(=O)OC(C)(C)C)C1(SCCCS1)C1=CC=CC=C1 | C23H33NO4S2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-1-(difluoro(phenyl)methyl)cyclohexanol | NC1CC(CCC1)(O)C(C1=CC=CC=C1)(F)F | C13H17F2NO
